US08217032B2
1-(2-{4-[2-(3-Fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]phenoxy}-ethyl)-azepane hydrochloride
Prepare this compound following the procedure to make 1-(2-{4-[2-(3-fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine above, using 2-(hexamethyleneimino)-ethyl chloride hydrochloride to get a 100% yield of the free base of the title compound after radial chromatography. Form the hydrochloride salt by adding 0.8 mL of a 1 M HCl in Et2O solution: mass spectrum (ion spray) m/z=4.86 (M−Cl).

reactant | 1-(2-{4-[2-(3-fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine | FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C30H30FNO3
reactant | 2-(hexamethyleneimino)-ethyl chloride hydrochloride | Cl.N(CCCCCCCl)=CCCl
product | 1-(2-{4-[2-(3-Fluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]phenoxy}-ethyl)-azepane hydrochloride | Cl.FC=1C=C(C=CC1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCCC2)C=C1 | InChI=1S/C31H32FNO3.ClH/c1-34-28-14-16-30-24(22-28)9-15-29(23-7-6-8-25(32)21-23)31(30)36-27-12-10-26(11-13-27)35-20-19-33-17-4-2-3-5-18-33;/h6-16,21-22H,2-5,17-20H2,1H3;1H
